** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/1_bit_sram.sch
**.subckt 1_bit_sram
x1 prec blb bl VDD precharge
x2 VDD write_en bl blb din new_wd
x3 VDD wl blb bl Q QB six_t
x4 read_en blb bl VDD dout new_sense_amp
**** begin user architecture code


** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/1_bit_sram.sch

.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

V1     vdd      gnd dc 1.8V
* For 4KB array (64 rows per column):
Cbl  bl  gnd 400f
Cblb blb gnd 400f
.ic V(Q)=0V V(QB)=1.8V
*.ic V(Q)=0V V(QB)=1.8V
*Vq_ic  q_force  gnd dc 1.8V
*Rq_ic  q_force  Q   1k

*Vqb_ic qb_force gnd dc 0V
*Rqb_ic qb_force QB  1k

Vprec  prec    gnd pulse 0 1.8 2.0ns 60ps 60ps 5ns  20ns

Vwl    wl      gnd pulse 0 1.8 2.5ns 60ps 60ps 0.8ns 20ns
Vrd    read_en gnd pulse 0 1.8 2.7ns 60ps 60ps 3.0ns 20ns

Vwr_en write_en gnd dc 0V
Vdin   din      gnd dc 0V

.tran 0.1p 20n

.control
run
* Panel 1: control signals — should see clear sequencing
plot V(prec)+6 V(wl)+4 V(read_en)+2


plot V(bl) V(blb)
set yrange=[1.5:1.85]
plot V(Q)+2 V(QB) V(dout)+4
plot V(bl)-V(blb)
plot V(x2.net1) V(x2.out) V(x2.net2)
* Crucially - what is bl and blb DURING read_en window specifically?
meas tran bl_at_read trig v(read_en) val=0.9 rise=1 targ v(read_en) val=0.9 fall=1
meas tran blb_val trig v(read_en) val=0.9 rise=1 targ v(blb) val=1.75 fall=1
print bl_at_read blb_val
.endc

**** end user architecture code
**.ends

* expanding   symbol:  precharge.sym # of pins=4
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/precharge.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/precharge.sch
.subckt precharge precharge blb bl VDD
*.ipin precharge
*.iopin bl
*.iopin blb
*.ipin VDD
XM1 blb precharge VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XM2 bl precharge VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
XM3 blb precharge bl VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1
.ends


* expanding   symbol:  new_wd.sym # of pins=5
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/new_wd.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/new_wd.sch
.subckt new_wd VDD write_en bl blb din
*.ipin VDD
*.ipin write_en
*.ipin din
*.iopin bl
*.iopin blb
XM1 write_en_b write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1
XM2 write_en_b write_en VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1
XM3 net1 din 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 net1 din VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM5 net2 net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM8 net3 write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM9 net4 write_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM7 bl net1 net3 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM10 blb net2 net4 0 sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
.ends


* expanding   symbol:  six_t.sym # of pins=6
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t.sch
.subckt six_t VDD wl blb bl Q QB
*.iopin bl
*.opin Q
*.opin QB
*.ipin wl
*.ipin VDD
*.iopin blb
XM3 QB Q 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 QB wl blb 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 Q wl bl 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 Q QB VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 QB Q VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM1 Q QB 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  new_sense_amp.sym # of pins=5
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/new_sense_amp.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/new_sense_amp.sch
.subckt new_sense_amp read_en blb bl VDD dout
*.ipin VDD
*.iopin bl
*.iopin blb
*.ipin read_en
*.opin dout
XM1 net1 net2 net3 net3 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM2 net1 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM3 net2 net1 net3 net3 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM5 net4 net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM6 net4 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM7 net1 read_en_b blb VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM8 net2 read_en_b bl VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM9 net3 read_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM10 dout_b net2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM11 dout_b net2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM12 read_en_b read_en vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM13 read_en_b read_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM14 dout read_en net4 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM15 net4 read_en_b dout vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM16 dout read_en_b 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
**** begin user architecture code



Cdelay read_en_b 0 10f


**** end user architecture code
XM17 net2 read_en vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM18 net1 read_en VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
.ends

.GLOBAL VDD
.GLOBAL wl
.GLOBAL Q
.GLOBAL QB
.GLOBAL prec
.GLOBAL read_en
.GLOBAL dout
.GLOBAL din
.GLOBAL write_en
.GLOBAL vdd
.end
