** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/sea_test.sch
**.subckt sea_test
x2 read_en blb bl VDD dout new_sense_amp
**** begin user architecture code




**** begin user architecture code

.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

************************************************
* Supply
************************************************

VVDD VDD 0 1.8

************************************************
* Bitline capacitance
************************************************

CBL  net1 0 400f
CBLB net2 0 400f

************************************************
* Bitline stimulus
************************************************

* First read: BL > BLB

VBL bl 0 PWL
+0n      1.8
+10n     1.8
+10.06n  1.80
+20n      1.80
+20.06n  1.80
+30n      1.80
+30.06n  1.60
+40n      1.60

VBLB blb 0 PWL
+0n      1.8
+10n     1.8
+10.06n  1.60
+20n      1.60
+20.06n  1.80
+30n      1.80
+30.06n  1.80
+40n      1.80

************************************************
* Read Enable
************************************************

VREAD read_en 0 PWL
+0n      0

* Read #1
+12n     0
+12.06n  1.8
+18n     1.8
+18.06n  0

* Read #2
+32n     0
+32.06n  1.8
+38n     1.8
+38.06n  0

+40n     0

************************************************
* Analysis
************************************************

.tran 0.1p 40n
.temp 27

.save v(bl) v(blb)  v(read_en) v(dout)

.control

run

plot read_en+6 bl+4 blb+2 dout

.endc





**** end user architecture code
**.ends

* expanding   symbol:  new_sense_amp.sym # of pins=5
** sym_path: /home/kaavya/chip/SRAM_SKY130/xschem/new_sense_amp.sym
** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/new_sense_amp.sch
.subckt new_sense_amp read_en blb bl VDD dout
*.ipin VDD
*.iopin bl
*.iopin blb
*.ipin read_en
*.opin dout
XM1 net1 net2 net3 net3 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM2 net1 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM3 net2 net1 net3 net3 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM5 net4 net1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM6 net4 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM7 net1 read_en_b blb VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM8 net2 read_en_b bl VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM9 net3 read_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM10 dout_b net2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM11 dout_b net2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM12 read_en_b read_en vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM13 read_en_b read_en 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM14 dout read_en net4 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM15 net4 read_en_b dout vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM16 dout read_en_b 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1
XM17 net2 read_en vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.26 nf=1 ad=0.3654 as=0.3654 pd=3.1 ps=3.1 nrd=0.23015873015873
+ nrs=0.23015873015873 sa=0 sb=0 sd=0 mult=1
XM18 net1 read_en VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
.ends

.GLOBAL VDD
.GLOBAL read_en
.GLOBAL dout
.GLOBAL bl
.GLOBAL blb
.GLOBAL vdd
.end
