** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t.sch
**.subckt six_t wl VDD blb bl Q QB
*.iopin bl
*.opin Q
*.opin QB
*.ipin wl
*.ipin VDD
*.iopin blb
XM3 QB Q 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 QB wl blb 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 Q wl bl 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 Q QB VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 QB Q VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM1 Q QB 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
**** begin user architecture code


.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD VDD 0 1.8
.ic v(Q)=1.8 v(QB)=0

Vbl bl 0 0
Vblb blb 0 1.8
Vwl wl 0 PULSE(0 1.8 2n 10p 10p 3n 10n)

.tran 10p 10n
.control
run
plot v(wl)+4 v(Q)+2 v(QB)
.endc
.save all


**** end user architecture code
**.ends
.end
